US04588746
A solution of N,N-dimethyl-2-benzyl-3-(4-trifluoromethylphenoxy)propylamine (22.0 g) and ethyl chloroformate (34.1 g, 30.0 ml) in dry toluene (200 ml) is refluxed for 72 hours. The reaction mixture is cooled to room temperature, and the solvent removed under reduced pressure. Water (200 ml) is added, and the mixture extracted with dichloromethane (2×150 ml). The combined dichloromethane extracts are washed with 2N hydrochloric acid (200 ml) and water (200 ml), and dried over magnesium sulfate. The solvent is removed under reduced pressure to give N-carbethoxy-N-methyl-2-benzyl-3-(4-trifluoromethylphenoxy)propylamine as an oil, which is used without purification for the next synthetic step above.

reactant | N,N-dimethyl-2-benzyl-3-(4-trifluoromethylphenoxy)propylamine | 22.0 g | CN(C)CC(COC1=CC=C(C=C1)C(F)(F)F)CC1=CC=CC=C1 | C19H22F3NO
reactant | ethyl chloroformate | 30.0 ml, 34.1 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-carbethoxy-N-methyl-2-benzyl-3-(4-trifluoromethylphenoxy)propylamine | C(=O)(OCC)N(C)CC(COC1=CC=C(C=C1)C(F)(F)F)CC1=CC=CC=C1 | C21H24F3NO3
